### PR TITLE
add properties of nonempty list

### PR DESCRIPTION
**Pull request by HuStmpHrrr**
#1695

### CODE REVIEW

File: src/Data/List/NonEmpty/Base.agda [hunk 1]
```diff
@@ -85,6 +85,11 @@ map f (x ∷ xs) = (f x ∷ List.map f xs)
 replicate : ∀ n → n ≢ 0 → A → List⁺ A
 replicate n n≢0 a = a ∷ List.replicate (pred n) a
 
+drop : ℕ → List⁺ A → List⁺ A
+drop zero    xs           = xs
+drop (suc n) (x ∷ [])     = x ∷ []
```
Comment (JacquesCarette) [inline src/Data/List/NonEmpty/Base.agda:90]: This makes sense, post facto, given the constraints, but is highly non-obvious given just the signature. I would add a comment both in the CHANGELOG and here about that.

File: src/Data/List/NonEmpty/Properties.agda [hunk 2]
```diff
@@ -49,6 +58,46 @@ toList->>= : ∀ {ℓ} {A B : Set ℓ}
...
+    ≡⟨ cong List.concat $ Listₚ.map-compose {g = List⁺.toList} (x ∷ xs) ⟩
   List.concat (List.map List⁺.toList (List.map f (x ∷ xs)))
     ∎
+
+length-++⁺ : (l : List A) (l′ : List⁺ A) → length (l ++⁺ l′) ≡ List.length l + length l′
+length-++⁺ [] l′          = refl
+length-++⁺ (x ∷ l) l′
+  rewrite length-++⁺ l l′ = refl
+
+length-++⁺′ : (l : List A) (l′ : List⁺ A) → length (l ++⁺ l′) ≡ suc (List.length l + List.length (List⁺.tail l′))
```
Comment (JacquesCarette) [inline src/Data/List/NonEmpty/Properties.agda:70]: the ' is not very indicative here. I think `tail` should appear in the name of the property. Plus, it also feels like this ought to be derived, i.e. the proof should combine a property of `length` and one of `+`.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

File: src/Data/List/NonEmpty/Properties.agda (hunk 2 above)
Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Properties.agda:70]: I will change the name. however, proving it using other theorems is rather cumbersome. this lemma can be proved using the previous one, and then reason `a + (1 + b) = (1 + a + b)`  while using induction it's pretty much the same proof.

File: src/Data/List/NonEmpty/Base.agda (hunk 1 above)
Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Base.agda:90]: will add a comment.

Comment (Taneb) [reply src/Data/List/NonEmpty/Base.agda:90]: I'm not happy with drop returning a non-empty list like this. It doesn't feel right at all to me

Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Base.agda:90]: this is not a surprising handling:

https://github.com/agda/agda-stdlib/blob/e3533e8ccbef6ebc1558f79f12661f482e57d49e/src/Data/List/Base.agda#L271-L274

there can be another implementing using `Fin` but this implementation is handy in cases where extra dependent types are unwanted.

File: src/Data/List/NonEmpty/Properties.agda [hunk 3]
```diff
@@ -49,6 +58,46 @@ toList->>= : ∀ {ℓ} {A B : Set ℓ}
...
+map-++⁺-commute f [] ys       = refl
+map-++⁺-commute f (x ∷ xs) ys = cong (λ zs → f x ∷ toList zs) (map-++⁺-commute f xs ys)
+
+length-map : ∀ (f : A → B) xs → length (map f xs) ≡ length xs
+length-map f (_ ∷ xs) = cong suc (Listₚ.length-map f xs)
+
+map-cong : ∀ {f g : A → B} → f ≗ g → map f ≗ map g
+map-cong f≗g (x ∷ xs) = cong₂ _∷_ (f≗g x) (Listₚ.map-cong f≗g xs)
+
+map-compose : {g : B → C} {f : A → B} → map (g ∘ f) ≗ map g ∘ map f
```
Comment (MatthewDaggitt) [inline src/Data/List/NonEmpty/Properties.agda:102]: `f` and `g` should be explicit right? Can can we introduce them in alphabetical order?

File: src/Data/List/NonEmpty/Base.agda [hunk 4]
```diff
@@ -85,6 +85,12 @@ map f (x ∷ xs) = (f x ∷ List.map f xs)
 replicate : ∀ n → n ≢ 0 → A → List⁺ A
 replicate n n≢0 a = a ∷ List.replicate (pred n) a
 
+-- when droping more than the size of the length of the list, the last element remains
+drop : ℕ → List⁺ A → List⁺ A
```
Comment (MatthewDaggitt) [inline src/Data/List/NonEmpty/Base.agda:89]: This signature feels wrong. Why would you keep the last element? I would imagine that it would return a list rather than a non-empty list?

Can you describe your motivating example for this?

File: CHANGELOG.md [hunk 5]
```diff
@@ -1471,3 +1471,22 @@ This is a full list of proofs that have changed form to use irrelevant instance
...
 
+* In `Data.List.NonEmpty.Base`:
+  ```agda
+  drop : ℕ → List⁺ A → List⁺ A
+  ```
+  When droping more than the size of the length of the list, the last element remains.
+  
+* Added new proofs in `Data.List.NonEmpty.Properties`:
+  ```agda
+  length-++⁺ : (l : List A) (l′ : List⁺ A) → length (l ++⁺ l′) ≡ List.length l + length l′
```
Comment (MatthewDaggitt) [inline CHANGELOG.md:1482]: We generally drop the individual arguments in the changelog, just give people the "flavour of the type" rather than the full thing which is usually pretty unreadable.
e.g.
```
 length-++⁺ : length (l ++⁺ l′) ≡ length l + length l′
 ++⁺-cancelˡ′ : l ++⁺ l″ ≡ l′ ++⁺ l‴ → length l ≡ length l′ → l″ ≡ l‴
```

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks for the PR! I've added a few comments.

File: src/Data/List/NonEmpty/Base.agda (hunk 4 above)
Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Base.agda:89]: the point is one shouldn't drop even the length of the list. essentially the second case shouldn't get hit. the same idea applies for the drop function in List; one shouldn't drop too many, so that an undesired base case is never hit. if drop returns a list, then it is rather useless; as one should have been working with a list to begin with. and even if it returned a list, it's going to be empty if dropped too much, so the problem is really not fixed. In my case, List+ is used for a context, and nonemptyness is part of the preconditions. dropping it should return another genuine context, which is at least nonempty.

Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Base.agda:89]: consider the counterpart in List for a reference:
https://github.com/agda/agda-stdlib/blob/e3533e8ccbef6ebc1558f79f12661f482e57d49e/src/Data/List/Base.agda#L271-L274

File: src/Data/List/NonEmpty/Properties.agda [hunk 6]
```diff
@@ -49,6 +58,46 @@ toList->>= : ∀ {ℓ} {A B : Set ℓ}
              (List⁺.toList (xs >>= f))
 toList->>= f (x ∷ xs) = begin
   List.concat (List.map (List⁺.toList ∘ f) (x ∷ xs))
-    ≡⟨ cong List.concat $ map-compose {g = List⁺.toList} (x ∷ xs) ⟩
+    ≡⟨ cong List.concat $ Listₚ.map-compose {g = List⁺.toList} (x ∷ xs) ⟩
   List.concat (List.map List⁺.toList (List.map f (x ∷ xs)))
     ∎
+
+length-++⁺ : (l : List A) (l′ : List⁺ A) → length (l ++⁺ l′) ≡ List.length l + length l′
```
[the remark this answers is not in the document]
Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Properties.agda:65]: sure. it has been a while so I lost track of the naming convention.

File: src/Data/List/NonEmpty/Properties.agda (hunk 3 above)
Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Properties.agda:102]: this property is directly taken from the list counterpart:
https://github.com/agda/agda-stdlib/blob/eec2bdf81779ba3e8c7a04e55398a3e3f4bf2e3a/src/Data/List/Properties.agda#L106-L108

File: CHANGELOG.md (hunk 5 above)
Comment (HuStmpHrrr) [reply CHANGELOG.md]: done

File: src/Data/List/NonEmpty/Properties.agda [hunk 7]
```diff
@@ -49,6 +58,46 @@ toList->>= : ∀ {ℓ} {A B : Set ℓ}
...
+length-++⁺ [] l′          = refl
+length-++⁺ (x ∷ l) l′
+  rewrite length-++⁺ l l′ = refl
```
[the remark this answers is not in the document]
Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Properties.agda]: done

File: src/Data/List/NonEmpty/Properties.agda (hunk 6 above)
[the remark this answers is not in the document]
Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Properties.agda]: done

File: CHANGELOG.md [hunk 8]
```diff
@@ -1471,3 +1471,22 @@ This is a full list of proofs that have changed form to use irrelevant instance
   1/neg⇒neg : ∀ p .{{_ : NonZero p}} → (1/p : Negative (1/ p)) → Negative p
   ```
 
+* In `Data.List.NonEmpty.Base`:
+  ```agda
+  drop : ℕ → List⁺ A → List⁺ A
+  ```
+  When droping more than the size of the length of the list, the last element remains.
```
[the remark this answers is not in the document]
Comment (HuStmpHrrr) [reply CHANGELOG.md]: done

File: src/Data/List/NonEmpty/Base.agda (hunk 4 above)
Comment (JacquesCarette) [reply src/Data/List/NonEmpty/Base.agda:89]: Call it `drop-all-but-one`? [I don't like that name, but it might spur better suggestions]

Comment (JacquesCarette) [reply src/Data/List/NonEmpty/Base.agda:89]: sounds like that would drop 1 element!  `drop-n-1` ? The second minus should probably be the one with a dot over it. That's exactly what it does...

Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Base.agda:89]: it's not. it's dropping really n. it's just that if you drop too many, it must keep the last element to make the type happy.

Comment (JacquesCarette) [reply src/Data/List/NonEmpty/Base.agda:89]: Indeed, you're right. I don't know, I think I'd prefer `drop` to take a `n < length l` argument. Then have a kind of 'wild' drop that is made artificially total (i.e. your current implementation).

Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Base.agda:89]: this is what pauses me. `drop` in list is the wild version, so `drop` in nonempty list should also be wild. in fact, typesafe versions don't exist in list.

Comment (MatthewDaggitt) [reply src/Data/List/NonEmpty/Base.agda:89]: I have to confess I don't understand what the problem is with the existing implementation of `drop` in `Data.List.Base`, I think the semantics of returning the empty list when you drop more than the number of elements in the list is perfectly reasonable. I also think I stand by my feeling that the standard operation `drop` should return a list rather than a non-empty list here. So I'm totally on board with @JacquesCarette's suggestion that we find an alternative name for this variant.

Ideally my first suggestion would be to call it `drop⁺`, but we already use `⁺` to denote introduction forms in predicates and relations over data types, so eventually we'd end up with names like `drop⁺⁺`. Wondering if that's a problem... Alternatively we could go for `drop+`?

File: src/Data/List/NonEmpty/Properties.agda (hunk 3 above)
Comment (MatthewDaggitt) [reply src/Data/List/NonEmpty/Properties.agda:100]: Hmm okay, well that really needs to be fixed too! Definitely swap it here, and I'll open an issue to swap the one in `Data.List.Properties`.

File: src/Data/List/NonEmpty/Base.agda (hunk 4 above)
Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Base.agda:89]: I am ok with any of these.

File: src/Data/List/NonEmpty/Properties.agda [hunk 9]
```diff
@@ -49,6 +58,44 @@ toList->>= : ∀ {ℓ} {A B : Set ℓ}
...
+
+length-++⁺-tail : (xs : List A) (ys : List⁺ A) → length (xs ++⁺ ys) ≡ suc (List.length xs + List.length (List⁺.tail ys))
+length-++⁺-tail [] ys                                     = refl
+length-++⁺-tail (x ∷ xs) ys rewrite length-++⁺-tail xs ys = refl
+
+++-++⁺ : (xs : List A) → ∀ {ys zs} → (xs ++ ys) ++⁺ zs ≡ xs ++⁺ ys ++⁺ zs
+++-++⁺ []      = refl
+++-++⁺ (x ∷ l) = cong (x ∷_) (cong toList (++-++⁺ l))
+
+++⁺-cancelˡ′ : ∀ xs ys {zs ws : List⁺ A} → xs ++⁺ zs ≡ ys ++⁺ ws → List.length xs ≡ List.length ys → zs ≡ ws
```
Comment (MatthewDaggitt) [inline src/Data/List/NonEmpty/Properties.agda:77]: Again can we introduce the variables in alphabetical order (same for the lemma below)?

File: src/Data/List/NonEmpty/Properties.agda (hunk 3 above)
Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Properties.agda:100]: also the name is actually a bit awkward. not sure why `compose` needs to be spelled out instead of `∘`

Comment (MatthewDaggitt) [reply src/Data/List/NonEmpty/Properties.agda:100]: Happy for that to be changed as well :+1:

File: src/Data/List/NonEmpty/Properties.agda (hunk 9 above)
Comment (HuStmpHrrr) [reply src/Data/List/NonEmpty/Properties.agda]: adjusted
